US08835432B2
2-((1S)-1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)ethyl)-isoindoline-1,3-dione
A 5 L three-necked round-bottomed flask equipped with an addition funnel, nitrogen inlet, overhead stirrer and thermocouple was charged with Montmorillonite K10 (274 g, 274 mmol) and water (54.2 mL). The mixture was vigorously stirred for ˜10 min, when a free flowing powder was obtained. At this time DCM (1.26 mL) was added followed by Oxone (421 g, 685 mmol). The reaction temperature dropped to 15° C. A solution of 2-((1S)-1-(5-chloro-3-(2-(methylthio)phenyl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione (126 g, 274 mmol) in DCM (630 mL) was added at rt (18-20° C.) to the montmorillo-nite/oxone suspension through an addition funnel and the internal temperature was controlled below 21° C. by a water/ice bath. The reaction was stirred at rt (19-21° C.) and monitored by LC. It was deemed completion after 96 h. The reaction mixture was filtered and the solids were washed with DCM (2×250 mL). The combined organic solution was washed with 10 wt % aq. solution of Na2SO3 (2×250 mL), concentrated and dried to afford the product as a light yellow solid 110 g with 97.6% LC purity and 82% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.14-8.29 (m, 1H), 7.64-8.14 (m, 8H), 7.52 (dd, J=5.5, 3.0 Hz, 1H), 7.21-7.38 (m, 1H), 5.59-5.94 (m, 1H), 3.10-3.27 (m, 3H), 1.66-1.91 (m, 3H) Mass Spectrum (ESI) m/z=492.0 (M+1).

reactant | Montmorillonite K10 | 274 mmol, 274 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
reactant | water | 54.2 mL | O | H2O
reactant | Oxone | 685 mmol, 421 g | OOS(=O)[O-].[K+]
reactant | 2-((1S)-1-(5-chloro-3-(2-(methylthio)phenyl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione | 274 mmol, 126 g | ClC1=C2N=C(C(=NC2=CC=C1)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)C1=C(C=CC=C1)SC | C25H18ClN3O2S
solvent | DCM | 630 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.26 mL | C(Cl)Cl | CH2Cl2
product | 2-((1S)-1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)ethyl)-isoindoline-1,3-dione | 110 g, 82% yield | ClC1=C2N=C(C(=NC2=CC=C1)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)C1=C(C=CC=C1)S(=O)(=O)C | C25H18ClN3O4S
